US07265108B2
3-[4-Hydroxy-4-(2-methyl-5-phenylpyrrol-1-yl)methyl-piperidino]methyl-1H-pyridin-2-one
After dissolving 35 mg of 4-hydroxy-4-(2-phenyl-5-methylpyrrol-1-yl)methyl-piperidine in 5 ml of dichloromethane, 16 mg of 2-oxo-1,2-dihydropyridine-3-carboxaldehyde and 0.02 ml of acetic acid were added and the mixture was stirred for 20 minutes at room temperature. Next, 41 mg of sodium triacetoxyborohydride was added and the mixture was stirred overnight at room temperature. Saturated aqueous sodium bicarbonate solution was added to the reaction mixture and extraction was performed with ethyl acetate and chloroform. After drying the organic layer over magnesium sulfate, the solvent was distilled off under reduced pressure. The obtained residue was purified by NH silica gel column chromatography to obtain the title compound (19 mg, 39% yield).

reactant | 4-hydroxy-4-(2-phenyl-5-methylpyrrol-1-yl)methyl-piperidine | 35 mg | OC1(CCNCC1)CN1C(=CC=C1C)C1=CC=CC=C1 | C17H22N2O
reactant | 2-oxo-1,2-dihydropyridine-3-carboxaldehyde | 16 mg | O=C1NC=CC=C1C=O | C6H5NO2
reactant | sodium triacetoxyborohydride | 41 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetic acid | 0.02 ml | C(C)(=O)O | C2H4O2
product | 3-[4-Hydroxy-4-(2-methyl-5-phenylpyrrol-1-yl)methyl-piperidino]methyl-1H-pyridin-2-one | 19 mg, 39% yield | OC1(CCN(CC1)CC=1C(NC=CC1)=O)CN1C(=CC=C1C1=CC=CC=C1)C | C23H27N3O2
